US07501411B2
Step 1: 5-Bromo-thiophene-2-carboxylic acid amide
A solution of 5-bromo-thiophene-2-carboxylic acid (4.51 g, 21.78 mmol), 3-hydroxybenzotriazole hydrate (3.24 g, 23.96 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (4.6 g, 23.96 mmol) in DMF (70 mL) is stirred at room temperature for 2 hours. The reaction mixture is then cooled to 0° C. and aq. 35% NH3 (2.2 mL) is added. The mixture is stirred at room temperature overnight. The solvent is removed in vacuo and the residue dissolved in EtOAc, washed with 1N NaHCO3, and brine. The organic layers are combined, dried over MgSO4, filtered and concentrated to afford the title compound (3.78 g, 84%). HPLC (254 nm): Rt 2.46 min (96.5%).

reactant | 5-bromo-thiophene-2-carboxylic acid | 21.78 mmol, 4.51 g | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | 3-hydroxybenzotriazole hydrate | 23.96 mmol, 3.24 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 23.96 mmol, 4.6 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | NH3 | 2.2 mL | N | H3N
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-thiophene-2-carboxylic acid amide | 3.78 g, 84% | BrC1=CC=C(S1)C(=O)N | C5H4BrNOS
